US06492355B1
a) 2-Chloro-5-nitro-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide
To a solution of 2-chloro-5-nitrobenzoic acid (1.22 g) in N,N-dimethylformamide (1.5 ml) was added carbonyldiimidazole (1.0 g). The resulting reaction mixture was stirred for 2.5 h and then 1-adamantanemethylamine (1.0 g) was added. After 14 h the reaction mixture was partitioned between ethyl acetate and water and the organic layer was separated, washed with water and brine and then dried over sodium sulphate (Na2SO4). The organic layer was concentrated under reduced pressure to give a residue which was purified by silica gel chromatography (eluting with 3-10% methanol in dichloromethane) to yield the subtitle compound as a yellow solid (1.7 g).

reactant | 2-chloro-5-nitrobenzoic acid | 1.22 g | ClC1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | carbonyldiimidazole | 1.0 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 1-adamantanemethylamine | 1.0 g | C12(CC3CC(CC(C1)C3)C2)CN | C11H19N
solvent | N,N-dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | 2-Chloro-5-nitro-N-(tricyclo[3.3.1.13,7]dec-1-ylmethyl)-benzamide | 1.7 g | ClC1=C(C(=O)NCC23CC4CC(CC(C2)C4)C3)C=C(C=C1)[N+](=O)[O-] | C18H21ClN2O3
